US07105539B2
5-Tritylsulfany-pentanoic acid ethyl ester
To a suspension of sodium hydride (989 mg, 24.47 mmol) in anhydrous DMF (60 mL) was added portion wise triphenylmethanethiol. After 15 minutes of stirring, ethyl 5-bromovalerate (2.8 mL, 17.48 mmol) was injected and the mixture was stirred at ambient conditions for 24 h. The reaction mixture was portioned between ether and saturated ammonium chloride. The water phase was extracted several times with ether. The recombined organic layer was washed with brine, dried, filtered and evaporated. The crude was flashed using 5–10% ethyl acetate in hexanes. 1H-NMR(CDCl3, 400 MH: 1.23(t, J=7.0 Hz, 3H); 1.42(m, 2H); 1.59(m, 2H); 2.16(m, 4H); 4.09(q, J=7.0 Hz, 2H), 7.21–7.30, 7.42(m, 15H).

reactant | sodium hydride | 24.47 mmol, 989 mg | [H-].[Na+]
reactant | triphenylmethanethiol | C1(=CC=CC=C1)C(S)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16S
reactant | ethyl 5-bromovalerate | 17.48 mmol, 2.8 mL | BrCCCCC(=O)OCC | C7H13BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 5-Tritylsulfany-pentanoic acid ethyl ester | C(C)OC(CCCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H28O2S
